US08536157B2
7,8-Dimethoxy-2-(4-nitrophenyl)-4,5-dihydro-2H-benzo[g]indazole (2-TB-39)
Phosphorous oxytrichloride (0.2 mL) was added, over a period of 0.5 h, to a magnetically solution of (E)-1-[6,7-dimethoxy-3,4-dihydronaphthalen-1(2H)-ylidene]-2-(4-nitro-phenyl)hydrazine (56 mg, 0.16 mmol) in DMF (5 mL) maintained at 0° C. under a nitrogen atmosphere. The ensuing mixture was allowed to warm to 18° C. and left stirring at this temperature for 1 h then heated to 65° C. and stirred at this temperature for a further 16 h. The hot reaction mixture was poured onto crushed ice and the crystals so-formed were collected by filtration. Recrystallisation (ethyl acetate/hexane) of this material then afforded the title compound (31 mg, 54%) as orange crystals, m.p. 150° C. (with decomposition).

reactant | (E)-1-[6,7-dimethoxy-3,4-dihydronaphthalen-1(2H)-ylidene]-2-(4-nitro-phenyl)hydrazine | 0.16 mmol, 56 mg | COC=1C=C2CCC/C(/C2=CC1OC)=N\NC1=CC=C(C=C1)[N+](=O)[O-] | C18H19N3O4
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7,8-Dimethoxy-2-(4-nitrophenyl)-4,5-dihydro-2H-benzo[g]indazole | 31 mg, 54% | COC=1C(=CC2=C(CCC3=CN(N=C23)C2=CC=C(C=C2)[N+](=O)[O-])C1)OC | C19H17N3O4
